US04931436
5,11-Dihydro-11-[[4-[2-(1-piperidinyl)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 4 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 4-[2-(1-piperidinyl)ethyl]piperidine in a yield of 47% of theory. Colourless crystals, m.p. 178°-180° C.

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 4-[2-(1-piperidinyl)ethyl]piperidine | N1(CCCCC1)CCC1CCNCC1 | C12H24N2
product | 5,11-Dihydro-11-[[4-[2-(1-piperidinyl)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 47% | N1(CCCCC1)CCC1CCN(CC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C25H31N5O2
